US08334287B2
5-[4-(3-Chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-2-ethyl-2H-pyridazin-3-one
The title compound, light yellow crystalline solid, MS: m/e=339.1, 340.6 (M+H+), was prepared in accordance with the general method of example 21a from 2-ethyl-5-(4-iodo-2-methyl-imidazol-1-yl)-2H-pyridazin-3-one and 1-chloro-3-ethynyl-benzene.

reactant | 2-ethyl-5-(4-iodo-2-methyl-imidazol-1-yl)-2H-pyridazin-3-one | C(C)N1N=CC(=CC1=O)N1C(=NC(=C1)I)C | C10H11IN4O
reactant | 1-chloro-3-ethynyl-benzene | ClC1=CC(=CC=C1)C#C | C8H5Cl
product | 5-[4-(3-Chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-2-ethyl-2H-pyridazin-3-one | ClC=1C=C(C=CC1)C#CC=1N=C(N(C1)C1=CC(N(N=C1)CC)=O)C | C18H15ClN4O
